US07417065B2
To a solution of 6-bromomethyl-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene (180mg, 0.4 mmol) in 5 mL DMSO, Ag2CO3(330mg, 1.2 mmol) is added. The suspension is heated to 100IC for 3 hours. After work up, the organic layer is dried and concentrated. The residue is applied in column (hexane:EtOAc 9:1) to afford 100mg of 2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene-6-carbaldehyde as a off white solid. MS m/z 383[M+1]+.

reactant | 6-bromomethyl-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene | 0.4 mmol, 180mg | BrCC=1C=CC2=C(SC(=C2)C2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C1 | C22H14BrF3S
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophene-6-carbaldehyde | 100mg | FC(C1=C(C=CC(=C1)C1=CC2=C(S1)C=C(C=C2)C=O)C2=CC=CC=C2)(F)F | C22H13F3OS
